US05266283
4-t-amyl-2-t-butylphenol
4-t-amylphenol (80 g, 0.49 mole) was dissolved in 200 ml anhydrous trifluoroacetic acid (TFA). T-butyl alcohol (39 g, 0.53 mole) was added with stirring. The mixture was stoppered and stirred for 19 hours at ambient (~22° C.) temperature. The solution was then poured into 400 ml of 1M NaOH, and the resulting upper organic layer was isolated in a separatory funnel. The crude product was dried over anhydrous magnesium sulfate. The product, 4-t-amyl-2-t-butylphenol, was purified by eluting 35 g of the mixture the mixture with 60:40 hexanes:dichloromethane (v/v) in a 5×20 cm silica column and eluted with 300 to 700 ml of solvent and collected in aliquots of 50 ml. Aliquots showing a single spot by Thin Layer Chromatography (TLC) (on silica eluted with 60:40 hexanes:dichloromethane (v/v)) were combined and rotoevaporated to a thick syrup. The yield was 39%.

reactant | 4-t-amylphenol | 0.49 mole, 80 g | C(C)(C)(CC)C1=CC=C(C=C1)O | C11H16O
reactant | T-butyl alcohol | 0.53 mole, 39 g | C(C)(C)(C)O | C4H10O
reactant | NaOH | 1M, 400 ml | [OH-].[Na+]
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-t-amyl-2-t-butylphenol | yield was 39% | C(C)(C)(CC)C1=CC(=C(C=C1)O)C(C)(C)C | C15H24O
